US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N{4-(5-fluoro-2-methylphenyl) -6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E45)
2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H) -yl]-4-(5-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide (D56, 110 mg) was dissolved in dry MeOH (2 mL), cooled in an ice-salt bath before adding cHCl solution (˜0.2 mL), and stirring at R.T. for 2 hours. Poured directly onto a 5 g SCX column. Washed with MeOH (2×10 mL), before eluting the compound with NH3 in MeOH 94×10 mL). Solvent evaporated. Residue purified on a 5 g sek-pak column eluting with Pent to EtOAc to 10% MeOH/EtOAc. Solvent evaporated to afford the title compound as a white solid.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H) -yl]-4-(5-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 110 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC(=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO[Si](C)(C)C(C)(C)C)(C)C)(F)F | C39H49F7N4O3Si
reactant | cHCl | ˜0.2 mL | [CH]Cl | CHCl
solvent | MeOH | 2 mL | CO | CH4O
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N{4-(5-fluoro-2-methylphenyl) -6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC(=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C33H35F7N4O3
